US04559344
(d) Production of 2-formyl-3-(6-methyl-3-pyridyl)-propionic acid ethyl ester
A mixture of 16.0 g (0.083 mole) of 3-(6-methyl-3-pyridyl)-propionic acid ethyl ester and 9.6 g (0.13 mole) of formic acid ethyl ester is slowly added dropwise while cooling with ice to a suspension of 5.2 g of sodium hydride (80% on paraffin oil; 0.17 mole) in 30 ml of ethylene glycol dimethyl ether. On completion of the addition, the solution is stirred for 8 hours at room temperature. After the addition of 10 ml of ethyl acetate and 200 ml of ice water, the mixture is extracted three times with diethyl ether. The aqueous phase is diluted to pH 5.4 with dilute hydrochloric acid and the crystals precipitating are filtered under suction. Light brown crystals melting at 141°-142° C. are obtained in a yield of 12.8 g (70%).

reactant | 3-(6-methyl-3-pyridyl)-propionic acid ethyl ester | 0.083 mole, 16.0 g | C(C)OC(CCC=1C=NC(=CC1)C)=O | C11H15NO2
reactant | formic acid ethyl ester | 0.13 mole, 9.6 g | C(C)OC=O | C3H6O2
reactant | sodium hydride | 0.17 mole, 5.2 g | [H-].[Na+]
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol dimethyl ether | 30 ml | COCCOC | C4H10O2
product | 2-formyl-3-(6-methyl-3-pyridyl)-propionic acid ethyl ester | C(C)OC(C(CC=1C=NC(=CC1)C)C=O)=O | C12H15NO3
